US04618711
Pyridine-chromic acid complex was prepared by adding chromium trioxide (26.4 g, 94 m. moles) to pyridine (41.76 g) in methylene chloride (660 ml). The reaction mixture was stirred at room temperature for 3/4 hours. Then N-isopropyl-N-(4-hydroxybutyl)-3,4-dichlorobenzenesulfonamide prepared in the preceding paragraph (15.01 g) in methylene chloride (150 ml) was added all at once. After 1/2 hour the liquid was decanted and washed with 5% aqueous NaOH, 5% aqueous HCl, 5% aqueous NaHCO3 and finally brine. After removal of solvent there was obtained N-isopropyl-N-(4-oxobutyl)-3,4-dichlorobenzenesulfonamide as a dark oil (9.01 g) which started to nicely crystallize but was used below without further purification.

reactant | pyridine | 41.76 g | N1=CC=CC=C1 | C5H5N
reactant | N-isopropyl-N-(4-hydroxybutyl)-3,4-dichlorobenzenesulfonamide | C(C)(C)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)CCCCO | C13H19Cl2NO3S
solvent | methylene chloride | 660 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 26.4 g | [O-2].[O-2].[O-2].[Cr+6]
product | N-isopropyl-N-(4-oxobutyl)-3,4-dichlorobenzenesulfonamide | 9.01 g | C(C)(C)N(S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)CCCC=O | C13H17Cl2NO3S
